US05158970
N-tosylsarcosine (60 g, 247 mmol) and L-prolinol (24.9 g, 247 mmol) are dissolved in methylene chloride (800 ml), and triethylamine (102.5 ml, 741 mmol) is added thereto. To this mixture is added dropwise, over a period of one hour under water-cooling, a solution of 2-chloro-1,3-dimethylimidazolium chloride (DMC) (62.6 g, 371 mmol) in methylene chloride. The mixture is further stirred for 2 hours at room temperature and then the reaction liquid is washed successively with water (1 l, a saturated aqueous solution of sodium hydrogen carbonate (1 l, 1N hydrochloric acid (1 l) and water (1 l). The organic layer is dried over anhydrous magnesium sulfate and filtered, and the filtrate is concentrated to dryness under reduced pressure to give N-tosylsarcosyl-L-prolinol (82.1 g, 102%).

reactant | N-tosylsarcosine | 247 mmol, 60 g | S(=O)(=O)(C1=CC=C(C)C=C1)N(C)CC(=O)O | C10H13NO4S
reactant | L-prolinol | 247 mmol, 24.9 g | N1[C@H](CO)CCC1 | C5H11NO
reactant | triethylamine | 741 mmol, 102.5 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-1,3-dimethylimidazolium chloride | 371 mmol, 62.6 g | [Cl-].ClC1=[N+](C=CN1C)C
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | N-tosylsarcosyl-L-prolinol | 82.1 g, 102% | S(=O)(=O)(C1=CC=C(C)C=C1)N(C)CC(=O)N1[C@H](CO)CCC1 | C15H22N2O4S
